US05382675
4.8 g (120 mmol) of 60% sodium hydride in oil (Fluka, pract.) are added at 65° to a solution of 3.06 g (2.85 ml, d=1.074; 29.96 mmol) of tetrahydro-2H-pyran-4-ol (Fluka, pract.) in 100 ml of absolute 1,4-dioxane. The resulting grey suspension is stirred under reflux for 2 hours, is allowed to cool to 65° again and then a solution of 3.25 g (2.59 ml, d=1.25; 29.95 mmol) of S(-)-2-chloropropionic acid (Fluka, puriss.) in 60 ml of absolute 1,4-dioxane is added dropwise over a period of 8 minutes. The resulting brown suspension is diluted with 100 ml of absolute 1,4-dioxane and the batch is heated under reflux for 3 hours, with stirring. Stirring is then continued for a further 14 hours at room temperature. 40 ml of water are then added dropwise to the resulting brown suspension over a period of 2 minutes and the yellow solution obtained is concentrated to dryness by evaporation under a high vacuum. The residue is taken up in 200 ml of water and the aqueous solution is extracted once with 250 ml and once with 150 ml of ethyl acetate. The ethyl acetate extracts are then washed once with 100 ml of water. All the aqueous phases are combined and then acidified with 4N hydrochloric acid (pH 1). The resulting solution is saturated with sodium chloride and extracted twice with 300 ml of ethyl acetate each time. The organic phases are then washed three times with 150 ml of saturated sodium chloride solution each time. All the ethyl acetate extracts are then combined, dried over magnesium sulfate, filtered and concentrated to dryness by evaporation under a high vacuum at 30°. The residue (yellow oil) is purified by bulb tube distillation (b.p. approximately 160° at 0.6 mm Hg). O-(tetrahydropyran-4-yl)-D-lactic acid is obtained in the form of a slightly yellowish oil; [α]D20 =+46.7±0.9° (c=1.058; chloroform). The oil crystallises from ethyl acetate/hexane 1:1 in the form of colourless crystals having a melting point of 68.7°-69.5°; [α]D20 =+48.8±0.8° (c=1; chloroform)

reactant | sodium hydride | 120 mmol, 4.8 g | [H-].[Na+]
reactant | tetrahydro-2H-pyran-4-ol | 29.96 mmol, 2.85 ml, 3.06 g | O1CCC(CC1)O | C5H10O2
reactant | water | 40 ml | O | H2O
solvent | 1,4-dioxane | 100 ml | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 60 ml | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | O-(tetrahydropyran-4-yl)-D-lactic acid | O1CCC(CC1)OC([C@H](O)C)=O | C8H14O4
